US07319152B2
To a stirred solution of trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester (0.25 g, 0.81 mmol) in glyme (7 mL) was added 4-chlorophenyl boronic acid (0.19 g, 1.22 mmol), a solution of sodium carbonate (0.26 g, 2.43 mmol) in water (1.5 mL), and tetrakis(triphenylphosphine)palladium (0) (0.05 g, 0.04 mmol). The resulting solution was heated to reflux for 2 hours. The mixture was cooled to room temperature, concentrated, taken up in ethyl acetate and filtered through a pad of the Celite® reagent. The filtrate was concentrated and the residue was purified by Gilson high performance liquid chromatography (HPLC—10 to 100 acetonitrile in water) to afford 5-(4-chlorophenyl)-3,3-dimethylindan-1-one as a white solid. (0.11 g, 50%). MS (ES) m/z 271.0; HRMS: calcd for C17H15ClO+H+, 271.0884; found (ESI, [M+H]+), 271.0877.

reactant | trifluoro-methanesulfonic acid 3,3-dimethyl-1-oxo-indan-5-yl ester | 0.81 mmol, 0.25 g | CC1(CC(C2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
reactant | 4-chlorophenyl boronic acid | 1.22 mmol, 0.19 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2.43 mmol, 0.26 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | glyme | 7 mL | C(OC)COC | C4H10O2
solvent | water | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-chlorophenyl)-3,3-dimethylindan-1-one | ClC1=CC=C(C=C1)C=1C=C2C(CC(C2=CC1)=O)(C)C | C17H15ClO
